* Z:\celera\projects\Simplis\playrelease\Release\play301\Verification\sim_amplifierGenerate301.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 16
.node_map IN 18
.node_map en 17
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 200u 0

.globalvar tdext_khz=200
.globalvar VIN=5
.globalvar REF=0.9


.PRINT V(#en)
.GRAPH :#en curveLabel= en nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(12)
.GRAPH :12 curveLabel= U1-ok1p5 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(13)
.GRAPH :13 curveLabel= U1-OUT1p5 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#IN)
.GRAPH :#IN curveLabel= IN nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe4  
.PRINT V(14)
.GRAPH :14 curveLabel= U1-ok1p0 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
.PRINT V(15)
.GRAPH :15 curveLabel= U1-OUT1p0 nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe6  
.PRINT V(#SIMPV)
.GRAPH :#SIMPV curveLabel= SIMPV nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe7  
X$U1 12 16 13 17 18 0 14 15 amplifier301
X$U3 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playrelease\Release\play301\Design\FORCEamplifier301.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301\Design\amplifier301.sxcmp
.subckt amplifier301 27 25 29 28 26 30 31 32
*#hierarchy
.node_map SIMPV 25
.node_map ok1p0 31
.node_map ok1p5 27
.node_map BUS1$0 19
.node_map BUS1$1 20
.node_map BUS1$2 21
.node_map BUS2$0 22
.node_map BUS2$1 23
.node_map BUS2$2 24
.node_map RTN 30
.node_map OUT1p0 32
.node_map IN 26
.node_map en 28
.node_map OUT1p5 29
X$amplifier1 25 30 29 26 28 27 19 20 21 16 amplifier vars: amplifier_gainadjust='fixed' amplifier_input_type='p' amplifier_accuracy='no' amplifier_accuracyname='text' amplifier_accuracydescription='text' amplifier_bandwidth='medium' amplifier_dft='no' amplifier_fixedpolarity='positive' amplifier_controltype='pin' amplifier_controldatasheetname='text' amplifier_controldatasheetdescription='text' amplifier_controlpolarity='positive' amplifier_ioutmax=2 amplifier_0=0 amplifier_vmax=6 amplifier_fixedgain=1.5 amplifier_1=0 amplifier_fixedr1=500 amplifier_controlpor=0 amplifier_controlr1=200 amplifier_controloptions=2 amplifier_2=0 amplifier_controlgain0=1 amplifier_controlgain1=2 amplifier_controlgain2=3 amplifier_controlgain3=4 amplifier_controlgain4=5 amplifier_controlgain5=6 amplifier_controlgain6=7 amplifier_controlgain7=8
X$amplifier2 25 18 32 26 28 31 22 23 24 17 amplifier vars: amplifier_gainadjust='fixed' amplifier_input_type='p' amplifier_accuracy='no' amplifier_accuracyname='text' amplifier_accuracydescription='text' amplifier_bandwidth='low' amplifier_dft='no' amplifier_fixedpolarity='positive' amplifier_controltype='pin' amplifier_controldatasheetname='text' amplifier_controldatasheetdescription='text' amplifier_controlpolarity='positive' amplifier_ioutmax=2 amplifier_0=0 amplifier_vmax=6 amplifier_fixedgain=1 amplifier_1=0 amplifier_fixedr1=300 amplifier_controlpor=0 amplifier_controlr1=200 amplifier_controloptions=2 amplifier_2=0 amplifier_controlgain0=1 amplifier_controlgain1=2 amplifier_controlgain2=3 amplifier_controlgain3=4 amplifier_controlgain4=5 amplifier_controlgain5=6 amplifier_controlgain6=7 amplifier_controlgain7=8
.PRINT I(X$amplifier2#SIMPV)
.GRAPH amplifier2#SIMPV curveLabel="I(amplifier2-SIMPV)" nowarn=true complete=true analysis=tran|pop disabled=false 
.PRINT I(X$amplifier1#SIMPV)
.GRAPH amplifier1#SIMPV curveLabel="I(amplifier1-SIMPV)" nowarn=true complete=true analysis=tran|pop disabled=false 
.ends amplifier301

.end
