* Z:\celera\projects\Simplis\playbrian\verif301\celera_amp\verification\sim_celera_amp_bwmed.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 16
.node_map INN 14
.node_map OUT 13
.node_map INP 15
.node_map enable_amplifier 17
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar VIN=5
.globalvar tdext_khz=1000

X$celera_amp_bwmed 17 16 15 14 13 celera_amp_bwmed

** From Z:\celera\projects\Simplis\playbrian\verif301\celera_amp\design\celera_amp_bwmed.sxcmp
.subckt celera_amp_bwmed 27 30 29 28 31
*#hierarchy
.node_map SIMPV 30
.node_map ok_amplifier 25
.node_map OUT 31
.node_map INN 28
.node_map INP 29
.node_map ok_delay 26
.node_map enable_amplifier 27
X$AMPok 26 dftprobeModel1 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='AMPok' dftprobe_description='AMP_ok' dftprobe_highvoltage=6 dftprobe_enable=1 dftprobe_vmax=6
X$IXamp 30 28 31 29 27 25 21 22 23 24 amplifier vars: amplifier_gainadjust='fixed' amplifier_input_type='p' amplifier_accuracy='no' amplifier_accuracyname='amp_gain' amplifier_accuracydescription='amp_gain' amplifier_bandwidth='medium' amplifier_dft='no' amplifier_fixedpolarity='positive' amplifier_controltype='pin' amplifier_controldatasheetname='amp_gain' amplifier_controldatasheetdescription='amp_gain' amplifier_controlpolarity='positive' amplifier_ioutmax=2 amplifier_0=0 amplifier_vmax=6 amplifier_fixedgain=3.3 amplifier_1=0 amplifier_fixedr1=200 amplifier_controlpor=0 amplifier_controlr1=200 amplifier_controloptions=2 amplifier_2=0 amplifier_controlgain0=1 amplifier_controlgain1=2 amplifier_controlgain2=3 amplifier_controlgain3=4 amplifier_controlgain4=5 amplifier_controlgain5=6 amplifier_controlgain6=7 amplifier_controlgain7=8
X$U12 27 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='service' pinprobe_output='tbd'
X$U16 30 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U20 29 pinprobe vars: pinprobe_description='tbd pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U24 28 pinprobe vars: pinprobe_description='Ground pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U28 31 pinprobe vars: pinprobe_description='tbd pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
XDELAY 27 25 26 VESPAdftpulse
.ends celera_amp_bwmed

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

** From Z:\celera\projects\Simplis\playbrian\verif301\celera_amp\verification\FORCE_celera_amp_bwmed.sxcmp


.end
