* Z:\celera\projects\Simplis\playrelease\Release\play301a\Verification\sim_clocksync301a.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map ck 11
.node_map in 9
.node_map en 10
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 50u 0

.globalvar tdext_khz=200
.globalvar VIN=5
.globalvar REF=0.9


.PRINT V(8)
.GRAPH :8 curveLabel= U5-out nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe1  
.PRINT V(#in)
.GRAPH :#in curveLabel= in nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#ck)
.GRAPH :#ck curveLabel= ck nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
X$U3 0 celera vars: simulation_module='name' status='dev' simulation='typical'
X$U5 9 8 10 11 clocksync301
** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Verification\FORCEclocksync301.sxcmp


** From Z:\celera\projects\Simplis\playrelease\Release\play301a\Verification\clocksync301.sxcmp
.subckt clocksync301 7 8 9 10
*#hierarchy
.node_map out 8
.node_map ck 10
.node_map in 7
.node_map en 9
X$clocksync1 5 7 10 8 6 9 clocksync  vars: clocksync_statusoutput='no' clocksync_dft='no' clocksync_accuracy='no' clocksync_trim_name='text' clocksync_trim_description='text' clocksync_frequency=1k clocksync_dutycyclemin=30 clocksync_dutycyclemax=70 clocksync_vmax=6
.ends clocksync301

.end
